US04952648
Charged in a reactor equipped with a thermometer, reflux condenser, dropping funnel and stirrer were 9.4 g of phenol and 0.2 g of sulfuric acid. Then, 23.6 g of α-methylstyrene was added dropwise under stirring at 50° C. over 5 hours from a dropping funnel. After completion of the dropwise addition, the reaction mixture was aged for 5 hours and then poured into a dilute aqueous solution of sodium carbonate. The resultant mixture was separated to obtain an oil layer. The oil layer was then distilled in vacuo. At a vacuum level of 3-4 mmHg, 22 g of a fraction having a boiling point of at least 220° C. was obtained. Thereafter, 7.5 g of a 40% aqueous solution of caustic soda was added to the fraction, followed by dehydration under reflux of xylene. After the dehydration, the xylene mixture was transferred to an autoclave and carbon dioxide was then charged to 30 kg/cm2 at 160° C. The contents were then reacted for 5 hours at the same temperature. After the reaction, the autoclave was cooled, the remaining gas was purged, the reaction mixture was extracted with hot water and the extract was neutralized with dilute sulfuric acid. As a result, crystals were caused to precipitate. Those crystals were then collected by filtration, followed by recrystallization using an aqueous acetic acid solution to obtain 8 g of 3,5-di(α,α-dimethylbenzyl)salicylic acid. A zinc salt was produced from the salicylic acid compound in the same manner as in Example 2.

reactant | phenol | 9.4 g | C1(=CC=CC=C1)O | C6H6O
reactant | α-methylstyrene | 23.6 g | CC(=C)C1=CC=CC=C1 | C9H10
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | caustic soda | [OH-].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
catalyst | sulfuric acid | 0.2 g | S(O)(O)(=O)=O | H2O4S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3,5-di(α,α-dimethylbenzyl)salicylic acid | 8 g | CC(C1=CC=CC=C1)(C)C1=C(C(C(=O)O)=CC(=C1)C(C1=CC=CC=C1)(C)C)O | C25H26O3
